US08138208B2
{(R)-4-[(3-Chloro-4-fluoro-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester (24 mg, 0.058 mmol), sodium hydride (60% dispersed in mineral oil, 11.6 mg) and 4-chlorophenol (0.52 mg, 0.40 mmol) were dissolved in N,N-dimethylformamide (2 mL). After being heated in a microwave oven at 100° C. for 15 minutes, the resulting mixture was acidified with acetic acid to pH 5, and filtered through a glass funnel. The precipitate was purified by preparative HPLC to afford ((R)-4-{[3-chloro-4-(2-chloro-phenoxy)-benzenesulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (24 mg, 77%) as a white powder. MS cald. for C24H25Cl2N3O5S 537, obsd. (ESI+) [(M+H)+]: 538.

reactant | {(R)-4-[(3-Chloro-4-fluoro-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | 0.058 mmol, 24 mg | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=C(C=C1)F)Cl)=O | C18H21ClFN3O4S
reactant | sodium hydride | 11.6 mg | [H-].[Na+]
reactant | 4-chlorophenol | 0.40 mmol, 0.52 mg | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | ((R)-4-{[3-chloro-4-(2-chloro-phenoxy)-benzenesulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 24 mg, 77% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=C(C=C1)OC1=C(C=CC=C1)Cl)Cl)=O | C24H25Cl2N3O5S
